US04203988
B. 2-(2-Dimethylaminoethylamino)-5-methylpyridine
To N-(2-dimethylaminoethyl)-N-(5-methyl-2-pyridyl) acetamide (50.0 g, 0.226 mole) is added 200 ml of 5 N sodium hydroxide. The mixture is stirred rapidly at reflux for 16 hours. The mixture is cooled and the oil is extracted into ether. The ether extract is dried and evaporated under reduced pressure. Distillation of the residue gives a pale yellow liquid, b.p. 105°-112°, n25D 1.5355. Weight obtained is 35 g.

reactant | N-(2-dimethylaminoethyl)-N-(5-methyl-2-pyridyl) acetamide | 0.226 mole, 50.0 g | CN(CCN(C(C)=O)C1=NC=C(C=C1)C)C | C12H19N3O
solvent | sodium hydroxide | 5 N, 200 ml | [OH-].[Na+]
product | 2-(2-Dimethylaminoethylamino)-5-methylpyridine | CN(CCNC1=NC=C(C=C1)C)C | C10H17N3
